US05506234
5.2 g (0.013 mol) of 2-amino-3-[4-(2-chlorobenzyl)-indol-3-yl]-4-methoxybutyric acid ethyl ester is refluxed for one hour with 0.44 g of paraformaldehyde in 500 ml of toluene under argon on a water separator. Then it is filtered off from a turbidity. The evaporation residue is chromatographed on silica gel with equal parts of acetone and dichloromethane and yields 1 g (19% of theory) of 1,2,3,4-tetrahydro-5-(2-chlorobenzyl)-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester.

reactant | 2-amino-3-[4-(2-chlorobenzyl)-indol-3-yl]-4-methoxybutyric acid ethyl ester | 0.013 mol, 5.2 g | C(C)OC(C(C(COC)C1=CNC2=CC=CC(=C12)CC1=C(C=CC=C1)Cl)N)=O | C22H25ClN2O3
reactant | paraformaldehyde | 0.44 g | C=O | CH2O
reactant | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2,3,4-tetrahydro-5-(2-chlorobenzyl)-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | 1 g, 19% | C(C)OC(=O)C1NCC=2NC3=CC=CC(=C3C2C1COC)CC1=C(C=CC=C1)Cl | C23H25ClN2O3
